Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with history of mantle cell lymphoma 
status post dose-dense R-CHOP x6, Velcade/Revlimid x5, and 
Bendamustine/Rituxan x10 and recent admission ___ for 
disease progression and EPOCH treatment who now presents with 
fever. 

He was admitted recently from ___ ___bdomen/pelvis 
___ in the setting of abdominal pain demonstrated marked 
interval progression in the size and extent of his lymphoma. He 
received EPOCH therapy with mild elevations in uric acid, but 
otherwise no evidence of tumor lysis or DIC. On that admission, 
he received 1u pRBC, IV Lasix as needed, and Neupogen x1 prior 
to discharge, with plans to return for daily Neupogen injections 
in the outpatient setting through his nadir. On the day after 
discharge (___), he went for Neulasta injection instead, 
feeling tired and overall fatigued, with nonbloody, nonbilious 
emesis x1 in the setting of Neulasta. On the following day (the 
day of admission), he developed temperature to 101 in the 
absence of headache, cough, shortness of breath, chest pain, 
abdominal pain, diarrhea, or dysuria. He does endorse 
constipation, as well as a 16-lb weight gain during his last 
admission. He also notes a new rash on his back as of the day of 
admission, not pruritic, but sore; he denies recent medication 
changes with the exception of Neupogen/Neulasta, to which he has 
had no adverse reactions in the past. He has had no recent sick 
exposures.

In the ED, vital signs were as follows: T 100.4, HR 98, BP 
141/52, O2 89%-94% RA. Admission labs were notable for UA with 
trace protein, lactate of 1, Cr 1.3 consistent with baseline, 
Wbc of 2, Hgb of 9.6, and platelets of 126. CT torso revealed 
small bilateral pleural effusions and atelectasis and extensive 
mesenteric, retroperitoneal, and mediastinal lymphadenopathy 
consistent with known lymphoma and unchanged from prior. He 
received 2g IV cefepime, 1g Tylenol, and 10mg oxycodone before 
transfer to the floor. On arrival to the floor, he is tired, but 
without nausea/vomiting, abdominal pain, or lightheadedness.
 
Past Medical History:
# Mantle Cell Lymphoma:
- First developed mantle cell lymphoma in ___, with extensive 
retroperitoneal, mesenteric, axillary, and left hilar 
lymphadenopathy, as well as colonic intussusception with 
increased thickness of the colonic wall, and bone marrow 
involvement, prompting dose-dense R-CHOP x6 at that time, 
concluding ___. He was monitored with serial imaging until 
___, at which time multiple new FDG-avid sites, particularly in 
the submandibular, cervical, and supraclavicular chains, were 
found with disease recurrence below the diaphragm, with biopsy 
of the lymphoid mass in the left submandibular triangle 
demonstrating mantle cell lymphoma, blastoid variant, with MIB 
as high as 80% and p53 positivity. 
- In place of cytoreduction followed by non-myeloablative 
allogeneic stem cell transplant, he elected to enroll in a trial 
of Velcade and Revlimid at ___, completing 5 cycles prior to 
withdrawal due to several adverse effects (peripheral 
neuropathy, weight loss, nausea, gastritis), with partial 
response. 
- PET-CT in ___ revealed increased retroperitoneal and 
mesenteric lymphadenopathy with associated rise in creatinine, 
he was treated with Bendamustine/Rituxan x5, beginning in ___. 
Although colonoscopy in ___ revealed mantle cell lymphomatous 
involvement, he opted for continued surveillance at that time. 
- In ___, he developed fatigue, fevers, and abdominal pain in 
the setting of cytopenias and rising LDH, prompting 
Bendamustine/Rituxan after x5. 
- CT abdomen/pelvis on ___ revealed progression of his 
disease. He was admitted ___ for EPOCH therapy.

# Hypertension
# Chronic kidney injury
# Erectile Dysfunction
 
Social History:
___
Family History:
Mother died of pneumonia, had prior CVAs. Father with possible 
stomach problems.
 
Physical Exam:
On admission:
VS: T 98.6, BP 126/56, HR 84, RR 19, O2 96% RA
Gen: well appearing, tired
HEENT: OP clear, mmm, sclerae anicteric, crusted facial lesion 
below L lower lip
Neck: lipoma (unchanged per patient)
Pulm: sparse bilateral crackles, no wheeze, good airway mvts
CV: reg rate, no mrg
Abd: +BS, soft, NT/ND
Ext: trace edema
Skin: erythematous maculopapular rash along the back
Neuro: A&Ox3, CN intact, strength ___ throughout

At discharge:
VS: Tm 98.9, Tc 98.6, BP 118/54, HR 78, RR 16, O2 96% RA
GENERAL - Well-appearing M who appears comfortable, appropriate, 
and in NAD
HEENT - PERRL, EOMI, sclerae anicteric, MMM, OP clear, crusted 
facial lesion below L lower lip
NECK - lipoma (unchanged per patient)
LUNGS - CTAB, moving air well and symmetrically, resp unlabored, 
no accessory muscle use
HEART - PMI non-displaced, RRR, S1-S2 clear and of good quality 
without murmurs, rubs or gallops
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs)
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric
SKIN - scattered macules overlying back, significantly improved 
from admission
 
Pertinent Results:
On admission:
___ 08:45PM   ___ PTT-26.5 ___
___ 08:45PM   PLT COUNT-126*
___ 08:45PM   WBC-2.0*# RBC-2.93* HGB-9.6* HCT-27.3* MCV-93 
MCH-32.9* MCHC-35.3* RDW-14.4
___ 08:45PM   NEUTS-84.9* LYMPHS-12.2* MONOS-0.7* EOS-2.1 
BASOS-0.1
___ 08:45PM   ALBUMIN-3.2* CALCIUM-8.6 PHOSPHATE-3.6 
MAGNESIUM-1.8
___ 08:45PM   ALT(SGPT)-10 AST(SGOT)-36 ALK PHOS-88 TOT 
BILI-0.4
___ 08:45PM   GLUCOSE-114* UREA N-31* CREAT-1.3* SODIUM-135 
POTASSIUM-3.5 CHLORIDE-97 TOTAL CO2-31 ANION GAP-11
___ 09:04PM   LACTATE-1.1
___ 10:08PM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:08PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG

At discharge:
___ 09:41AM BLOOD WBC-11.0 RBC-2.59* Hgb-8.4* Hct-24.6* 
MCV-95 MCH-32.3* MCHC-34.2 RDW-14.9 Plt ___
___ 09:41AM BLOOD Neuts-75* Bands-6* Lymphs-2* Monos-14* 
Eos-1 Baso-0 ___ Metas-1* Myelos-1* NRBC-1*
___ 09:41AM BLOOD ___ PTT-26.6 ___
___ 09:41AM BLOOD Glucose-106* UreaN-14 Creat-1.7* Na-138 
K-3.5 Cl-103 HCO3-25 AnGap-14
___ 09:41AM BLOOD ALT-7 AST-21 LD(LDH)-450* AlkPhos-96 
TotBili-0.2
___ 09:41AM BLOOD Calcium-8.7 Phos-2.1* Mg-1.9

In the interim:
___ 06:35AM URINE Color-Yellow Appear-Hazy Sp ___
___ 06:35AM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 06:35AM URINE RBC-2 WBC-1 Bacteri-FEW Yeast-NONE Epi-0
___ 06:35AM URINE CastGr-16* CastHy-19*
___ 06:35AM URINE Eos-NEGATIVE  
___ 08:27AM URINE Hours-RANDOM UreaN-449 Creat-134 Na-112 
K-35 Cl-127

Microbiology:
BCx x2 (___): NG
UCx (___): NG
BCx (___): NGTD
UCx (___): NG 
CMV VL (___): Not detected
EBV DNA (___): <200

Imaging:
EKG (___): Sinus rhythm. Left atrial enlargement. Early R 
wave progression in the precordial leads. Compared to the 
previous tracing of ___ sinus tachycardia is no longer 
present.

CXR (___): Bilateral small pleural effusions.

CT chest/abdomen/pelvis with contrast (___):
1.  New small bilateral pleural effusions with associated 
atelectasis.  
2.  Mediastinal, mesenteric, and retroperitoneal lymphadenopathy 
consistent
with patient's known history of lymphoma, not significantly 
changed from prior imaging on ___ and ___.

Portable abdomen (___): Nonobstructive bowel gas pattern.

Portable CXR (___): Cardiac size is top normal.  There are 
bibasilar atelectasis, larger on the right side.  There are no 
consolidations suggestive of pneumonia.  There is no 
pneumothorax or pleural effusion.
 
Brief Hospital Course:
___. ___ is a ___ with history of mantle cell lymphoma s/p 
dose-dense R-CHOP x6, Velcade/Revlimid x5, and 
Bendamustine/Rituxan x10 and recent admission ___ for 
disease progression and EPOCH treatment who presented with fever 
in the setting of impending neutropenia.

<< Active Issues:
#Fever: Following temperature to 101 at home and 100.4 in the 
ED, he remained afebrile on cefepime until ___, when he 
developed temperature to 100.8, prompting addition of vancomycin 
at that time. Although ___ was 1698 on admission, ___ declined 
to 640 the following day, and he remained neutropenic until 
___, when Wbc was 6.4. Both vancomycin and cefepime were 
discontinued ___, and he remained afebrile off antibiotics for 
24 hours prior to discharge. No definitive source was isolated 
throughout admission; BCx/UCx were negative or demonstrated no 
growth to date, CT torso on admission was negative for acute 
infectious process, multiple CXRs were negative, and abdominal 
plain film showed no evidence of perforation. He remained 
hemodynamically stable throughout admission.  

#Maculopapular rash: Although there was initial suspicion for 
drug rash versus viral exanthem, diffuse erythematous 
maculopapular rash overlying his back was felt by dermatology to 
be miliaria and responded to conservative treatment with 
hydrocortisone cream and Sarna lotion, with significant 
improvement over the course of admission. Serum EBV and CMV were 
negative.

#Volume overload: On admission, he endorsed 16-lb weight gain 
from 164 to 180 lbs over the course of his last admission in the 
setting of IV fluid and pRBC administration, and CT torso on 
admission demonstrated small bilateral pleural effusions, with 
exam notable for sparse bilateral crackles and absence of 
peripheral edema. Following a single dose of IV Lasix on 
admission, he returned to his dry weight within days without 
dedicated intervention. There were no signs of volume overload 
by the time of discharge. He did receive maintenance IV fluids 
in the latter half of his admission due to poor oral intake. 

#Mantle cell lymphoma: As noted above, he remained neutropenic 
throughout much of admission in the setting of recent EPOCH 
therapy. Hct remained relatively stable at ___, without 
transfusion requirement, and although platelet count declined 
over the course of admission from 126 to 31, they had uptrended 
to 165 by the time of discharge. He remained on allopurinol 
prophylaxis without evidence of tumor lysis, as well as Bactrim 
prophylaxis and oxycodone for abdominal pain throughout 
admission; Oxycontin was associated with nausea/vomiting, both 
of which abated following discontinuation. Close follow-up was 
scheduled in ___ clinic post-discharge. 

#Acute-on-chronic kidney injury: Although creatinine of 1.3 on 
admission was consistent with recent baseline, creatinine 
uptrended over the course of admission, peaking at 1.9, 
initially attributed to prerenal azotemia in the setting of poor 
oral  intake, with FeUrea 31% on ___ in the setting of 
creatinine of 1.9, though BUN did not increase correspondingly, 
and granular and hyaline casts were present in the urine, 
suggesting intrinsic renal injury, possibly contrast-induced 
following CT torso on admission. Urine was negative for 
eosinophilia. Creatinine downtrended to 1.7 by the time of 
discharge, and close hematology follow-up was arranged to ensure 
further downtrend in creatinine.

#Hypertension: He remained hemodynamically stable throughout 
admission, with occasional soft pressures to ___ systolic, 
prompting initiation of maintenance IV fluids in the setting of 
poor oral intake and holding of home hydrochlorothiazide, which 
was resumed at discharge.

#Facial lesion: Crusted facial lesion below his left lower left 
was felt by dermatology to represent impetigo, with response to 
mupirocin cream. 

<<Transitional Issues:
-Close follow-up was arranged in ___ clinic for further 
treatment of mantle cell lymphoma and to ensure resolution of 
acute-on-chronic kidney injury.
-Although he was offered follow-up in ___ clinic, he 
opted instead to follow up with his community dermatologist and 
was given the contact information for ___ dermatology in the 
event that he changed his mind.
-Pending studies: BCx x2 (___). 
-Code status: DNR/DNI.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
Hold for SBP<100 
2. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
3. mometasone *NF* 0.1 % Topical BID Reason for Ordering: Wish 
to maintain preadmission medication while hospitalized, as there 
is no acceptable substitute drug product available on formulary.
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
5. Cialis *NF* (tadalafil) 20 mg Oral prn sexual activity 
6. Dronabinol 5 mg PO Q4H:PRN nausea 
7. Allopurinol ___ mg PO DAILY 
8. Filgrastim 480 mcg SC Q24H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Febrile neutropenia
Mantle cell lymphoma
Miliaria
Impetigo
Acute-on-chronic kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking part in your care during your admission 
to ___. As you know, you were 
admitted for fever in the setting of a low white blood cell 
count. Chest x-ray was negative, and no bacteria were isolated 
in your blood or urine. You were treated with antibiotics and 
experienced no recurrent fever, with the exception of brief 
low-grade fever, for which an additional antibiotic was started. 
Once your counts recovered, your antibiotics were stopped, and 
your fever did not recur. You also were found to have a rash on 
your back on admission, which was felt by the dermatologists to 
be heat rash; they felt that the lesion below your lower lip was 
due to a local bacterial infection, and it improved with 
application of antibiotic cream. Your kidney function was found 
to be mildly reduced from baseline, likely due to limited fluid 
intake and intravenous contrast administration with CT scan on 
admission, and improved with IV fluids. 

The following changes were made to your medications:
-Please STOP mometasone cream
-Please CONTINUE mupirocin cream, which was started in the 
hospital, through ___ or until lesion below lower lip 
resolves.
-Please CONTINUE hydrocortisone cream and Sarna lotion, which 
were started in the hospital, as needed for itch or irritation 
of your back.
-Please CONTINUE Colace, senna, and Miralax, which were started 
in the hospital, as needed for constipation while you continue 
on pain medication.  
 
Followup Instructions:
___